US07351726B2
Step 1: Synthesis of (2-Ethyl-benzofuran-3-yl)-phenyl-methanone:
A stirring solution of 2-ethyl benzofuran (43.8 g; 0.3 mol) in methylene chloride (300 mL) was cooled in an ice bath. Benzoyl chloride (42.2 g; 0.3 mol) was added. Tin (IV) chloride (85 g; 0.33 mol) was then added dropwise. The mixture was stirred at room temperature for 30 minutes then at reflux for one hour. The mixture was then cooled to room temperature, poured over ice, and extracted with ether. The ethereal extract was washed with brine, dried over anhydrous magnesium sulfate, and solvent evaporated. The residue was purified by flash chromatography on silica gel using 1% ethyl acetate in hexane as an eluent. The product was obtained as an oil (26 g). Mass spectrum (ESI, [M+] m/z 250. 1HNMR (400 MHz, DMSO-d6): δ 1.21 (t, 3H, J=7.47 Hz), 2.76 (q, 2H, J=7.47 Hz), 7.21 (dt, 1H, J=7.25, 1.1 Hz), 7.3-7.38 (m, 2H), 7.52-7.56 (m, 2H), 7.61-7.69 (m, 2H), 7.73-7.76 (m, 2H). Elemental Analysis for C17H14O2: Calculated: C, 81.58; H, 5.64. Found: C, 81.73; H, 5.56.

reactant | 2-ethyl benzofuran | 0.3 mol, 43.8 g | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | Benzoyl chloride | 0.3 mol, 42.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Tin (IV) chloride | 0.33 mol, 85 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | (2-Ethyl-benzofuran-3-yl)-phenyl-methanone | 26 g | C(C)C=1OC2=C(C1C(=O)C1=CC=CC=C1)C=CC=C2 | C17H14O2
